US07008940B1
N-Methyl-N-[1-[(1,6,7,8-tetrahydro-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indol-2-yl)methyl]-4-piperidinyl]-1,3-benzothiazole-2-amine
A suspension of 1,6,7,8-tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole (372 mg, 1.0 mmol), N-methyl-N-(4-piperidinyl)-1,3-benzothiazole-2-amine hydrochloride (427 mg, 1.5 mmol) and potassium carbonate (485 mg, 3.5 mmol) in N,N-dimethylacetamide (2 mL) was stirred at 180° C. for 6 hours under the nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate two times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to basic silica gel column chromatography (hexane-ethyl acetate 10:1), and recrystallized from ethyl acetate-hexane to obtain 276 mg of the title compound.

reactant | 1,6,7,8-tetrahydro-2-(iodomethyl)-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indole | 1.0 mmol, 372 mg | ICC1(CC2=C3CC(NC3=C(C(=C2O1)C)C)(C)C)C | C16H22INO
reactant | N-methyl-N-(4-piperidinyl)-1,3-benzothiazole-2-amine hydrochloride | 1.5 mmol, 427 mg | Cl.CN(C=1SC2=C(N1)C=CC=C2)C2CCNCC2
reactant | potassium carbonate | 3.5 mmol, 485 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
product | N-Methyl-N-[1-[(1,6,7,8-tetrahydro-2,4,5,7,7-pentamethyl-2H-furo[3,2-e]indol-2-yl)methyl]-4-piperidinyl]-1,3-benzothiazole-2-amine | 276 mg, Yield 56% | CN(C=1SC2=C(N1)C=CC=C2)C2CCN(CC2)CC2(CC1=C3CC(NC3=C(C(=C1O2)C)C)(C)C)C | C29H38N4OS
